US08242133B2
A mixture of 3.54 g of diisopropylamine and 50 ml of tetrahydrofuran was stirred while cooling in a dry ice-acetone bath. To the reaction mixture, 20 ml of 1.6 M hexane solution of n-butyllithium was added so that the temperature of the reaction mixture did not exceed −40° C. The reaction mixture was stirred for 30 minutes. Then, a mixture of 4.74 g of 3-bromopyridine and 5 ml of tetrahydrofuran was added so that the temperature of the reaction mixture did not exceed −60° C. The reaction mixture was stirred for further 30 minutes. Crushed dry ice was added to the reaction mixture and then cooling was stopped. The reaction mixture was stirred until the temperature retuned to room temperature. Water was added thereto, most of hexane and tetrahydrofuran was removed under reduced pressure. The residue was washed with tert-butyl methyl ether, and the aqueous layers were collected. To the collected aqueous layers, concentrated hydrochloric acid was added while ice-cooling so that pH of the mixture was made to be 3 and stirred for one hour, followed by extraction with ethyl acetate three times. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 0.69 g of 3-bromo isonicotinic acid.

reactant | diisopropylamine | 3.54 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-bromopyridine | 4.74 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | dry ice | C(=O)=O | CO2
solvent | Water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6 M, 20 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-bromo isonicotinic acid | 0.69 g | BrC1=C(C(=O)O)C=CN=C1 | C6H4BrNO2
